Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
chest pain
 
Major Surgical or Invasive Procedure:
Cardiac catheterization
 
History of Present Illness:
The patient is a ___ year old male with a past medical history 
only significant for HLD who presented with chest pain.  The 
patient states that 2 weeks ago he experienced exertional, 
substernal chest pressure on exertion (occurred while playing 
basketball) which subsequently resolved after a few minutes. 
Within the past few days, he has noticed episodes of burning 
chest pain which he thought was due to GERD.  The episodes have 
been occuring both with activity and at rest and last a few 
minutes in duration.  He had been taking TUMs.  The night prior 
to admission he awoke 4 times in the middle of the night with 
the burning chest pain- each episode lasted about ___ minutes. 
 On the day of presentation he experienced the worst episode of 
substernal chest pressure and burning, which he rated at a ___ 
in severity.  He denied any dyspnea during these episodes.  He 
subsequently called EMS, was given 4 baby aspirin in the 
ambulence, and was brought to the ___ ED. 
 
In the ED, initial EKG was significant for ST elevations in 
V1-V4 and the patient was taken for cardiac catheterization.  
In the cardiac cath lab, the patient received 600mg Plavix as 
well as 5400 heparin bolus.  Following placement of the wire, he 
was noted to have a reperfusion rhythm, AIVR. Cardiac cath was 
significant for complete occlusion of the proximal LAD and a 
drug eluting stent was placed.  
 
On arrival to the floor, vitals:
Temp 98.9 HR 91 BP 137/87 RR 17 98% on 2L nasal cannula
The patient denies any chest pain or burning. 
 
Past Medical History:
1. CARDIAC RISK FACTORS: No DM, No HTN, +HLD 
2. CARDIAC HISTORY:  No previous cardiac history
3. OTHER PAST MEDICAL HISTORY:  
Allergy induced asthma
Depression
Elbow surgery a few months ago
 
Social History:
___
Family History:
No family history of early MI, arrhythmia, cardiomyopathies, or 
sudden cardiac death; otherwise non-contributory.  
Does have a family history of HLD
 
Physical Exam:
ADMISSION PHYSICAL EXAMINATION:  
VS: Temp 98.9 HR 91 BP 137/87 RR 17 98% on 2L nasal cannula 
General:  no acute distress
HEENT:  NCAT
Neck:  no JVD noted
CV:  normal S1/S2, RRR, no murmurs
Lungs:  clear to ascultation anteriorly
Abdomen:  +BS, soft, nontender, nondistended
GU:  no foley in place
Ext:  warm, well perfused, no edema
Neuro:  AAOx3  
Pulses:  +DP pulses

DISCHARGE PHYSICAL EXAM:
VSS afebrile
General: NAD
HEENT: EOMI, PERRL
Neck: No JVD
CV: RRR, no murmurs
Lung: CTAB
ABd: BS+, soft, NTTP
Pulses: 2+ DP
Ext: WWP, no c/c/e, R arm radial access site c/d/i, unremarkable 
on exam.
 
Pertinent Results:
ADMISSION EXAM:
___ 10:40PM BLOOD WBC-10.6 RBC-4.67 Hgb-14.2 Hct-40.3 
MCV-86 MCH-30.4 MCHC-35.3* RDW-12.7 Plt ___
___ 10:40PM BLOOD ___ PTT-150* ___
___ 10:40PM BLOOD Glucose-163* UreaN-22* Creat-1.2 Na-138 
K-3.3 Cl-98 HCO3-26 AnGap-17
___ 10:40PM BLOOD CK(CPK)-113
___ 05:12AM BLOOD ALT-95* AST-431* LD(LDH)-778* 
CK(CPK)-2979* AlkPhos-49 TotBili-0.5
___ 10:40PM BLOOD Lipase-12
___ 05:12AM BLOOD Albumin-4.6 Calcium-9.7 Phos-4.7* Mg-2.0 
Cholest-220*
___ 05:12AM BLOOD Triglyc-404* HDL-31 CHOL/HD-7.1 
LDLmeas-139*
___ 05:12AM BLOOD %HbA1c-5.4 eAG-108

PERTINENT LABS:
___ 10:40PM BLOOD CK-MB-3 cTropnT-<0.01
___ 05:12AM BLOOD CK-MB-113* MB Indx-3.8 cTropnT-7.40*
___ 12:01PM BLOOD CK-MB-71* MB Indx-3.4 cTropnT-5.27*

EKG on arrival to ED: 
NSR @ 80bpm, normal axis, ST elevations in V1-V4

EKG on arrival to CCU: 
NSR @ 80bpm, normal axis, normal intervals, ST elevations in 
V1-V4, Q waves noted in V2-V3
 
CARDIAC CATH (___):  
1. Anterolateral STEMI with complete occlusion of the proximal 
   LAD
2. Successful PTCA and stenting of the LAD as above
3. Successful removal of the R radial sheath and placement of 
   Terumo band. 
4. Post MI care per CCU team. Would switch to Prasugrel in AM 
   given very proximal LAD stent and disease burden.
 
MICROBIOLOGY
___ Blood culture x 2: NTD
___ Urine culture: BETA STREPTOCOCCUS GROUP B.    10,000-100,000 
ORGANISMS/M
___ 07:58AM URINE Color-Yellow Appear-Clear Sp ___
___ 07:58AM URINE Blood-NEG Nitrite-NEG Protein-TR 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-2* pH-5.5 Leuks-NEG
___ 07:58AM URINE RBC-1 WBC-3 Bacteri-NONE Yeast-NONE Epi-0

DISCHARGE LABS:
___ 07:42AM BLOOD WBC-10.3 RBC-4.93 Hgb-15.0 Hct-42.5 
MCV-86 MCH-30.5 MCHC-35.4* RDW-13.1 Plt ___
___ 07:42AM BLOOD Glucose-114* UreaN-21* Creat-1.1 Na-139 
K-4.5 Cl-99 HCO3-27 AnGap-18
___ 06:10AM BLOOD Calcium-9.2 Phos-4.2 Mg-2.___ year old male with a past medical history only significant 
for HLD who presented with chest pain found to have STEMI. now 
s/p cardiac cath with LAD drug eluting stent placement

# STEMI:  Patient had no significant cardiac history, presented 
with burning chest pain, worsening over the past couple weeks, 
and found to have STEMI in V1-4, elevated cardiac biomarkers and 
taken to cath via R radial access with complete LAD occlusion, 
with DES placed. His cardiac biomarkers peaked at CK 2979, CKMB 
113, and troponin 7.4.  His post-cardiac echocardiogram was 
notable for regional left ventricular systolic dysfunction with 
LVEF ___. He was found to have elevated ___ 404 and LDL 139.  
He was started on ASA 325, prasugrel, atorva 80, started on 
metop and lisinopril.  He had resolution of CP and SOB and was 
HDS at discharge.

# Fever:  He had an episode of T 101.1 on ___ without localizing 
symptoms, and negative CXR, UA and urine and blood cultures were 
NTD at discharge.  He had no leukocytosis, and he defervesced 
without intervention without recurrent fevers and had been 
afebrile for over 24 hours on day of discharge. Post discharge, 
his ucx returned positive for GBS, and he was treated with 3-day 
course of Bactrim. 
 
#  Depression: 
- continued home prozac
 
#  Asthma: 
- continued home ___, held mometasone as not on 
formulary but given fluticasone nasal spray

TRANSITIONAL ISSUES:
-Pt had DES placed, started on plavix and ASA
-Blood cultures x 2 pending at discharge
-Post discharge, ucx positive for GBS, treated with 3-day course 
of Bactrim. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Asmanex Twisthaler (mometasone) 220 mcg (120 doses) 
Inhalation daily 
2. Montelukast Sodium 10 mg PO DAILY 
3. ZyrTEC (cetirizine) 10 mg Oral daily 
4. Fluoxetine 20 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Fish Oil (Omega 3) 4000 mg PO DAILY 
7. Cinnamon (cinnamon bark) 1000 mg Oral daily 

 
Discharge Medications:
1. Outpatient Lab Work
check Chem-7 on ___ with results to Dr. ___ at 
Phone: ___ 
Fax: ___ 
ICD 9: 428
2. Fluoxetine 20 mg PO DAILY 
3. Montelukast Sodium 10 mg PO DAILY 
4. ZyrTEC (cetirizine) 10 mg Oral daily 
5. Aspirin EC 325 mg PO DAILY 
RX *aspirin 325 mg 1 tablet,delayed release (___) by mouth 
daily Disp #*30 Tablet Refills:*0
6. Atorvastatin 80 mg PO DAILY 
RX *atorvastatin 80 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
7. Lisinopril 5 mg PO DAILY 
RX *lisinopril 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
8. Metoprolol Succinate XL 25 mg PO DAILY 
RX *metoprolol succinate 25 mg 1 tablet extended release 24 
hr(s) by mouth daily Disp #*30 Tablet Refills:*0
9. Nitroglycerin SL 0.3 mg SL PRN pain 
Take up to 2 tabs 5 min apart, call ___ if you still have chest 
pain after 2 tabs 
RX *nitroglycerin 0.4 mg 1 tab sublingually when you have chest 
pain Disp #*30 Tablet Refills:*0
10. Prasugrel 10 mg PO DAILY 
RX *prasugrel [Effient] 10 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
11. Asmanex Twisthaler (mometasone) 220 mcg (120 doses) 
Inhalation daily 
12. Multivitamins 1 TAB PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
ST elevation myocardial infarction
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure taking care of you at ___. 
You were admitted with chest pain and was found to be having a 
heart attack. A cardiac catheterization showed that you had a 
blockage in your left anterior descending artery that was opened 
with a drug eluting stent. It is extremely important that you 
take aspirin and prasugrel every day without fail to prevent the 
stent from clotting off and causing another heart attack. Do not 
stop taking aspirin or prasugrel or miss any doses unless Dr. 
___ it is OK to do ___. You still have a 60% blockage 
in a diagonal artery that branches off the left anterior artery. 
This blockage is not dangerous now and you are on the right 
medicines to prevent it from getting worse. Dr. ___ will 
monitor this as an outpatient. 
You had a fever in the hospital that was probably because of the 
heart attack, all tests were negative at the time of discharge. 
 
Followup Instructions:
___